US07897792B2
[2-(Benzhydrylidene-amino)-3-fluoropyridin-4-yl]-methanol
A mixture of benzhydrylidene-[4-(tert-butyldimethylsilyloxymethyl)-3-fluoropyridin-2-yl]-amine (14 mg, 32 μmol) and tetrabutylammonium fluoride (1 mol/L in THF) (65 μL, 65 μmol) in THE (0.5 mL) was stirred at room temperature for 30 minutes. Ethyl acetate was then added to the reaction solution, and the solution was washed with sodium hydrogen carbonate solution and saturated saline. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The resultant residue was purified by silica gel column chromatography to yield the title compound.

reactant | benzhydrylidene-[4-(tert-butyldimethylsilyloxymethyl)-3-fluoropyridin-2-yl]-amine | 32 μmol, 14 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=NC=CC(=C1F)CO[Si](C)(C)C(C)(C)C | C25H29FN2OSi
reactant | tetrabutylammonium fluoride | 65 μmol, 1 mol/L, 65 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(Benzhydrylidene-amino)-3-fluoropyridin-4-yl]-methanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=NC=CC(=C1F)CO | C19H15FN2O
